US08729095B2
Under ice cooling, to a tetrahydrofuran solution (500 ml) of tert-butyl 4-{[5-chloro-2-(3-ethoxy-3-oxopropyl)pyridin-3-yl]amino}piperidine-1-carboxylate (54.7 g) was added dropwise a tetrahydrofuran solution (1 M, 159 ml) of potassium tert-butoxide over 15 minutes. After stirring for 15 minutes at the same temperature, water was added to the reaction solution, and extracted with dichloromethane. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford tert-butyl 4-(7-chloro-2-oxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl)piperidine-1-carboxylate (31.2 g).

reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | tert-butyl 4-{[5-chloro-2-(3-ethoxy-3-oxopropyl)pyridin-3-yl]amino}piperidine-1-carboxylate | 54.7 g | ClC=1C=C(C(=NC1)CCC(=O)OCC)NC1CCN(CC1)C(=O)OC(C)(C)C | C20H30ClN3O4
reactant | tetrahydrofuran | 1 M, 159 ml | O1CCCC1 | C4H8O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | water | O | H2O
product | tert-butyl 4-(7-chloro-2-oxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl)piperidine-1-carboxylate | 31.2 g | ClC1=CN=C2CCC(N(C2=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C18H24ClN3O3
